US08735385B2
{4-[(S)-3-(2-Methyl-pyrrolidin-1-yl)-cyclopentyl]-phenyl}-carbamic acid benzyl ester
[4-((S)-3-Oxo-cyclopentyl)-phenyl]-carbamic acid benzyl ester (618 mg, 2 mmol, 1 equiv.) was dissolved in DCE (20 mL). To this solution was transferred a solution of 2-methylpyrrolidine (212 mg, 2.5 mmol, 1.25 equiv.) in 3 mL of DCE, followed by acetic acid (360 mg, 6 mmol, 3 equiv) in DCE (2 mL), then by addition of powder NaBH(OAc)3 (1.27 g, 6 mmol, 3 equiv.) in one portion under N2 at r.t. The yellowish milky solution was stirred at r.t. 24 h. The reaction was diluted with DCM (20 mL) and quenched with 10 mL of NaHCO3. The two layers were separated, and the aqueous layer was extracted with DCM (10 mL×2). The combined DCM extracts were washed with sodium bicarbonate (10 mL), brine (15 mL), dried (anhydrous potassium carbonate), filtered, and concentrated. The residue, a thick oil, was dissolved in DCM, and purified on a silica gel column to afford 0.61 g (81%) of the title compound.

reactant | [4-((S)-3-Oxo-cyclopentyl)-phenyl]-carbamic acid benzyl ester | 2 mmol, 618 mg, 1 equiv. | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)[C@@H]1CC(CC1)=O)=O | C19H19NO3
reactant | 2-methylpyrrolidine | 2.5 mmol, 212 mg, 1.25 equiv. | CC1NCCC1 | C5H11N
reactant | acetic acid | 6 mmol, 360 mg, 3 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 6 mmol, 1.27 g, 3 equiv. | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DCE | 3 mL | ClCCCl | C2H4Cl2
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | {4-[(S)-3-(2-Methyl-pyrrolidin-1-yl)-cyclopentyl]-phenyl}-carbamic acid benzyl ester | 0.61 g, 81% | C(C1=CC=CC=C1)OC(NC1=CC=C(C=C1)[C@@H]1CC(CC1)N1C(CCC1)C)=O | C24H30N2O2
